US07538931B2
Haj=1-Ethyl-1H-benzimidazole
To a flask were added 100 g benzimidazole, 44 g Sodium hydroxide, 320 ml water and 480 ml tetrahydrofuran and the mixture was stirred under nitrogen. 157 g Diethyl sulfate were added slowly, maintaining a temperature of 40 C. After 2 hrs at 40 C, the reaction was quenched with slow addition of 100 ml concentrated hydrochloric acid. After washing with 150 ml hexane, the mixture was basified with 50 g Sodium hydroxide and extracted with 275 ml ethyl acetate, then 225 ml ethyl acetate. The solvent was removed, leaving an orange oil, which was distilled under full vacuum to give 109.4 g clear colorless oil.

reactant | benzimidazole | 100 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | Sodium hydroxide | 44 g | [OH-].[Na+]
reactant | water | 320 ml | O | H2O
reactant | Diethyl sulfate | 157 g | S(=O)(=O)(OCC)OCC | C4H10O4S
solvent | tetrahydrofuran | 480 ml | O1CCCC1 | C4H8O
product | 1-Ethyl-1H-benzimidazole | 109.4 g | C(C)N1C=NC2=C1C=CC=C2 | C9H10N2
